test pz
* KNOWN GAP: explicit PZ ports and transfer zeros are not yet exposed by the dispatcher.
* This correctness test should currently fail; implement support to match the expected output.
* Expected results: bench_pz_pz2.expected.json
* Origin: benchmark/fixtures/pz/pz2/circuit.sp
iin	1	0	ac
r1	1	0	1.019524e+9Ohms
l1	1	0	1H

gm2	2	0	1 0 1
r2	2	0	8.296965e+08Ohms
l2	2	0	1H

gm3	3	0	2 0 1
r3	3	0	8.652054e+07Ohms
l3	3	0	1H

gm4	4	0	3 0 1
r4	4	0	1.060594e+07Ohms
l4	4	0	1H

*gm5	5	0	4 0 1
*r5	5	0	10Ohms
*l5	5	0	0.66mH

.options noacct
.pz	1 0	4 0	cur pol
.print pz all
.end
